US07666878B2
101b) [2-Methyl-1-(3-methyl-3H-benzotriazol-5-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To a solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester ((0.025 g, 0.122 mmol) in dry DMF (1 ml) under an inert atmosphere of Argon is added dropwise, BEMP (56.6 μl, 0.196 mmol). The mixture is agitated at room temperature for 1 hour before cooling to 0° C. with an ice-bath. A solution of 5-bromomethyl-1-methyl-1H-benzotriazole (0.044 g, 0.196 mmol) in DMF (1 ml) is added to the cooled solution and the resulting mixture is agitated at room temperature for 2 days. The solvent is removed in vacuo and purification of the crude by chromatography on silica eluting with iso-hexane/ethyl acetate (0%-20% ethyl acetate) yields the titled product. (MH+ 350).

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 0.196 mmol, 56.6 μl | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 5-bromomethyl-1-methyl-1H-benzotriazole | 0.196 mmol, 0.044 g | BrCC1=CC2=C(N(N=N2)C)C=C1 | C8H8BrN3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [2-Methyl-1-(3-methyl-3H-benzotriazol-5-ylmethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC1=C(N=NN1C)C=C2)C)=O | C19H19N5O2
